US05547792
[Synthesis of N,N-bis(4-methylphenyl)-4-amino-3'-hydroxystilbene]
40 ml of N,N-dimethylformamide were added to a mixture of 4.06 g (10.0 mmol) of N,N-bis(4-methylphenyl)-4-amino-3'-methoxystilbene and 1.68 g (20.0 mmol) of sodium thioethylate. The thus prepared mixture was refluxed with stirring for 4 hours. The mixture was then cooled to room temperature, and poured into water. The ether component was extracted from the reaction mixture by a separating funnel. The thus obtained organic layer was washed with water, and dried over magnesium sulfate and further dried under reduced pressure, thereby producing a dark green oily material.

reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | N,N-bis(4-methylphenyl)-4-amino-3'-methoxystilbene | 10.0 mmol, 4.06 g | CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=CC1=CC(=CC=C1)OC)C1=CC=C(C=C1)C | C29H27NO
reactant | sodium | 20.0 mmol, 1.68 g | [Na] | Na
solvent | water | O | H2O
product | N,N-bis(4-methylphenyl)-4-amino-3'-hydroxystilbene | CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=CC1=CC(=CC=C1)O)C1=CC=C(C=C1)C | C28H25NO
